Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([C@@H:2]1[CH2:3][CH2:4][C@H:5]([N:6]2[C:7](=[O:8])[CH2:9][O:10][CH2:11][CH2:12]2)[CH2:13][CH2:14]1)=[O:15].[NH2:16][c:17]1[cH:18][n:19][c:20](-[c:21]2[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]2)[cH:29][n:30]1>>[C:1]([C@@H:2]1[CH2:3][CH2:4][C@H:5]([N:6]2[C:7](=[O:8])[CH2:9][O:10][CH2:11][CH2:12]2)[CH2:13][CH2:14]1)(=[O:15])[NH:16][c:17]1[cH:18][n:19][c:20](-[c:21]2[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]2)[cH:29][n:30]1,[OH:101][C:1]([C@@H:2]1[CH2:3][CH2:4][C@H:5]([N:6]2[C:7](=[O:8])[CH2:9][O:10][CH2:11][CH2:12]2)[CH2:13][CH2:14]1)=[O:15].[NH2:16][c:17]1[cH:18][n:19][c:20](-[c:21]2[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]2)[cH:29][n:30]1.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([C@@H:2]1[CH2:3][CH2:4][C@H:5]([N:6]2[C:7](=[O:8])[CH2:9][O:10][CH2:11][CH2:12]2)[CH2:13][CH2:14]1)(=[O:15])[NH:16][c:17]1[cH:18][n:19][c:20](-[c:21]2[cH:22][c:23]([F:24])[cH:25][c:26]([F:27])[cH:28]2)[cH:29][n:30]1,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (16, 1), ([1, 15], 15), (303, 16.1), ([16.1, 16], 16), (15, [15, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([CH:2]1[CH2:3][CH2:4][C:5]([c:6]2[s:7][cH:8][c:9]([CH2:10][O:11][c:12]3[cH:13][c:14]([O:15][CH3:16])[cH:17][c:18]4[c:19]3[cH:20][c:21](-[c:22]3[cH:23][n:24]5[n:25][c:26]([O:27][CH3:28])[s:29][c:30]5[n:31]3)[o:32]4)[n:33]2)([OH:34])[CH2:35][CH2:36]1)=[O:37].[CH3:38][NH:39][CH2:40][C:41]#[N:42]>>[C:1]([CH:2]1[CH2:3][CH2:4][C:5]([c:6]2[s:7][cH:8][c:9]([CH2:10][O:11][c:12]3[cH:13][c:14]([O:15][CH3:16])[cH:17][c:18]4[c:19]3[cH:20][c:21](-[c:22]3[cH:23][n:24]5[n:25][c:26]([O:27][CH3:28])[s:29][c:30]5[n:31]3)[o:32]4)[n:33]2)([OH:34])[CH2:35][CH2:36]1)(=[O:37])[N:39]([CH3:38])[CH2:40][C:41]#[N:42],[OH:101][C:1]([CH:2]1[CH2:3][CH2:4][C:5]([c:6]2[s:7][cH:8][c:9]([CH2:10][O:11][c:12]3[cH:13][c:14]([O:15][CH3:16])[cH:17][c:18]4[c:19]3[cH:20][c:21](-[c:22]3[cH:23][n:24]5[n:25][c:26]([O:27][CH3:28])[s:29][c:30]5[n:31]3)[o:32]4)[n:33]2)([OH:34])[CH2:35][CH2:36]1)=[O:37].[CH3:38][NH:39][CH2:40][C:41]#[N:42].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH:2]1[CH2:3][CH2:4][C:5]([c:6]2[s:7][cH:8][c:9]([CH2:10][O:11][c:12]3[cH:13][c:14]([O:15][CH3:16])[cH:17][c:18]4[c:19]3[cH:20][c:21](-[c:22]3[cH:23][n:24]5[n:25][c:26]([O:27][CH3:28])[s:29][c:30]5[n:31]3)[o:32]4)[n:33]2)([OH:34])[CH2:35][CH2:36]1)(=[O:37])[N:39]([CH3:38])[CH2:40][C:41]#[N:42],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (39, 1), ([1, 37], 37), (303, 39.1), ([39.1, 39], 39), (37, [37, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1](=[O:2])[c:3]1[cH:4][c:5]([N+:6](=[O:7])[O-:8])[c:9]([S:10][c:11]2[c:12]([Cl:13])[cH:14][n:15][cH:16][c:17]2[Cl:18])[s:19]1.[NH2:20][c:21]1[cH:22][cH:23][cH:24][c:25]2[cH:26][n:27][cH:28][cH:29][c:30]12>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([N+:6](=[O:7])[O-:8])[c:9]([S:10][c:11]2[c:12]([Cl:13])[cH:14][n:15][cH:16][c:17]2[Cl:18])[s:19]1)[NH:20][c:21]1[cH:22][cH:23][cH:24][c:25]2[cH:26][n:27][cH:28][cH:29][c:30]12,[OH:101][C:1](=[O:2])[c:3]1[cH:4][c:5]([N+:6](=[O:7])[OH:8])[c:9]([S:10][c:11]2[c:12]([Cl:13])[cH:14][n:15][cH:16][c:17]2[Cl:18])[s:19]1.[NH2:20][c:21]1[cH:22][cH:23][cH:24][c:25]2[cH:26][n:27][cH:28][cH:29][c:30]12.[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1](=[O:2])([c:3]1[cH:4][c:5]([N+:6](=[O:7])[OH:8])[c:9]([S:10][c:11]2[c:12]([Cl:13])[cH:14][n:15][cH:16][c:17]2[Cl:18])[s:19]1)[NH:20][c:21]1[cH:22][cH:23][cH:24][c:25]2[cH:26][n:27][cH:28][cH:29][c:30]12,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (20, 1), ([1, 2], 2), (303, 20.1), ([20.1, 20], 20), (2, [2, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[CH2:1][C:2]([NH:3][C:4]([CH3:5])=[O:6])=[O:7].[SH:8][C:9]([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)([c:22]1[cH:27][cH:26][cH:25][cH:24][cH:23]1)[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH2:1]([C:2]([NH:3][C:4]([CH3:5])=[O:6])=[O:7])[S:8][C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,[SH:8][C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[Cl:101][CH2:1][C:2]([NH:3][C:4]([CH3:5])=[O:6])=[O:7].[H-:301].[Na+]>>[CH2:1]([C:2]([NH:3][C:4]([CH3:5])=[O:6])=[O:7])[S:8][C:9]([c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1)([c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,SN2_alcohol(thiol),"[(301, 8.1), ([8.1, 8], 8), (8, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
